* C:\users\vito\Documents\facu\4y\1Q\tps\assd\tp1\spice\ckt_tp1.asc
R1 N002 Vn 3k
R69 N002 Vp 5k
XU4 Vp Vn 0 supply Vp=6 Vn=6
XU3 N002 trian Vp Vn CLK 0 LM311/TI
R8 Vp CLK 4k7
XU2 N003 trian Vp Vn N001 TL082
R5 N003 0 10k
R9 N001 N003 11k6
R10 N001 trian {rv}
C2 trian 0 10n IC=1
.tran 0 1m 200u 10u
* .ac dec 1000 10k 100k
.step param rv 455 800 120
.lib TCLib/LM311.lib
.lib TCLib/supply.lib
.lib TCLib/TL082.lib
.backanno
.end
