* C:\users\vito\Documents\facu\4y\1Q\tps\assd\tp1\spice\ckt_tp1.asc
R1 N002 Vn 3k
R69 N002 Vp 5k
XU4 Vp Vn 0 supply Vp=5 Vn=5
XU3 N002 trian Vp Vn CLK 0 LM311/TI
R8 Vp CLK 4k7
XU2 N003 trian Vp Vn N001 TL082
R5 N003 0 10k
R9 N001 N003 11k6
R10 N001 trian 600
C2 trian 0 10n IC=1
XU1 CLK nCLK Vp 0 inv2
XU5 sgn_in CLK 0 Vn P001 sgn_snh Vp LF398H
V1 sgn_in 0 SINE(0 2 10k)
C1 P001 0 1n
XU6 N004 sng_nat nCLK Vp Vn 54HC4016
R2 N004 sgn_snh 100m
R3 sgn_snh 0 10k
C3 sgn_snh 0 1p
R4 sng_nat 0 10k
C4 sng_nat 0 1p
.tran 0 1m 200u 10u
* .ac dec 1000 10k 100k
* .step param rv 455 800 120
.lib C:\users\vito\Documents\LTspice\Libraries\ana_swit.lib
.lib C:\users\vito\Documents\LTspice\Libraries\LTSpiceASSDLib.lib
.lib HC_TNOMI.CIR
.lib TCLib/LM311.lib
.lib TCLib/supply.lib
.lib TCLib/TL082.lib
.backanno
.end
